US04914242
In 200 ml of water, 19.7 g of the fraction containing (3-ethylphenyl)phenylmethane obtained in the above alkylation was suspended. With stirring the suspension, 2 liter of an 1.6% aqueous solution of potassium permanganate was dropped. After the dropping, the stirring was continued for about 10 hours at room temperature. After this mixture was acidified with concentrated sulfuric acid, sodium hydrogensulfite powder was added until the reaction mixture became transparent from brown and it was extracted with benzene. After drying the benzene layer with anhydrous magnesium sulfate, 3-ethylbenzophenone was obtained in a yield of 97% by reduced pressure distillation.

reactant | (3-ethylphenyl)phenylmethane | C(C)C=1C=C(C=CC1)CC1=CC=CC=C1 | C15H16
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
product | 3-ethylbenzophenone | yield of 97% | C(C)C=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C15H14O
